US06455548B2
Preparation of 4-(2-n-propyloxy-2-methyl-1-propyl)piperidine
A mixture of 0.09 g (0.3 mmol) of 1-t-butoxycarbonyl-4-(2-allyloxy-2-methyl-1-propyl)piperidine and 0.0058 g of Pd/C (10%) in 2 mL of CH3OH was stirred under H2 (1 atm) for 24 h. The reaction mixture was filtered through a thin pad of Celite and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ether, 6:1) to give 0.06 g of the title compound.

reactant | 1-t-butoxycarbonyl-4-(2-allyloxy-2-methyl-1-propyl)piperidine | 0.3 mmol, 0.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C)(C)OCC=C | C17H31NO3
solvent | CH3OH | 2 mL | CO | CH4O
catalyst | Pd/C | 0.0058 g | [Pd] | Pd
product | 4-(2-n-propyloxy-2-methyl-1-propyl)piperidine | 0.06 g | C(CC)OC(CC1CCNCC1)(C)C | C12H25NO
